US04063015
4-O-Acetyl-3-deoxy-6-O-tosyl-D-glucal (550 mg.) and sodium azide (550 mg.) were dissolved in hexamethylphosphoramide (50 ml.) and the mixture was stirred at 25° for 24 hours. The reaction mixture was poured into ether and extracted with water and the ether extract was dried (MgSO4) and evaporated and the product was chromatographed on a silica gel column (58 × 2.5 cm) using 7% acetone in hexane as the eluent to give 4-O-acetyl-6-azido-3,6-dideoxy-D-glucal (200 mg.) as a colorless oil, (Found: C, 48.84; H, 5.33; N,21.49. C8H11N3O3 requires: C, 48.72; H, 5.62; N, 21.31%), [α]D26 = 158.8° (CH3OH), νmax (film) 2100, 1720, 1660, 1220, 1050 cm.-1, δ(CDCl3) 2.09 (3H, s, OAc), 4.72 (1H, ddd, H = 6Hz, J = 4.5Hz, J = 3Hz, H2) and 6.39 ppm (1H, ddd, J = 2Hz, J = H1. )

reactant | 4-O-Acetyl-3-deoxy-6-O-tosyl-D-glucal | 550 mg | C(C)(=O)O[C@H]1CC=CO[C@@H]1COS(=O)(=O)C1=CC=C(C)C=C1 | C15H18O6S
reactant | sodium azide | 550 mg | [N-]=[N+]=[N-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-O-acetyl-6-azido-3,6-dideoxy-D-glucal | 200 mg | C(C)(=O)O[C@H]1CC=CO[C@@H]1CN=[N+]=[N-] | C8H11N3O3
